Diode Reverse Recovery
*SIMPLIS Netlist generated by Advanced Sim server on 14/08/2007 6:55:19 PM

*Schematic Netlist:
C1 0 1 1n
X$D1 2 3 DIODE
E1 4 0 5 0 825.5m
E2 6 0 7 8 1
G1 7 8 5 1 5.732
VH1 6 9 0
H1 5 0 VH1 1
VId 3 7 0
IFOR 0 2 10.8
Ldidt 3 2 300n
R1 1 4 5.9
XR2 9 0 SIMPLIS_VPWLR2$0
Rs 0 8 1m
S1 10 0 11 0 SW IC=OPEN
V1 11 12 PWL NSEG=2 X0=0 Y0=0 X1=50n Y1=5 X2=1 Y2=5
V1_AC 12 0 AC 1 0
VREV 10 2 30


*PLOT TRAN -1 1 A=VD A=VId#branch
.PRINT V(3)
*GRAPH :3 analysis="tran" curveLabel="VD" xLog="auto" yLog="auto" nowarn=true 
.PRINT I(VId#P)
*GRAPH VId#P analysis="tran" curveLabel="VId#branch" xLog="auto" yLog="auto" nowarn=true 

.OPTIONS IGNORE_UNITS
*Selected Circuit Analyses:
.TRAN 7E-7 0
.OPTIONS PSP_NPT=1001

*Models and Subcircuits:
.SUBCKT DIODE 1 2 vars: IMAX=100m IC=0 IS=1.0e-14 N=1.0 RS=0.0 VJ=0.6
.NODE_MAP P 1
.NODE_MAP N 2
.VAR IC = {IFF(IC<50m, 1, IFF(IC<VJ, 2, 3))}
Xx 1 2 DIODE_SPICE vars: IMAX={IMAX} IC={IC} IS={IS} N={N} RS={RS}
.ENDS DIODE

.SUBCKT SIMPLIS_VPWLR2$0 13 14
!Rx 13 14 VPWLR2 IC=1
.MODEL VPWLR2 VPWLR NSEG=2 X0=0 Y0=0 X1=0.6 Y1=3.2e-005 X2=0.793658 Y2=10.8
.ENDS SIMPLIS_VPWLR2$0

.MODEL SW VCSW TH=2.5 HYSTWD=1 RON=1m ROFF=10Meg LOGIC=POS

.END
